US09216980B2
Preparation of 1-(4-Bromo-2-methoxybenzyl)-piperidine
To a stirred solution of 4-bromo-1-chloromethyl-2-methoxybenzene (1.50 g, 6.36 mmol) in acetonitrile (64 mL) was added potassium carbonate (1.05 g, 6.36 mmol) and piperidine (0.63 mL, 6.36 mmol) then the reaction mixture was heated under reflux for 15 h. The reaction mixture was cooled to ambient temperature and then filtered, the filtrate was then concentrated under reduced pressure to afford a residue that was then loaded onto an SCX-2 cartridge (10 g) and eluted with 2N ammonia in methanol to afford the title compound (1.73 g, 96%). 1H NMR (CDCl3, 300 MHz): 7.23 (d, J=8.1 Hz, 1H), 7.05 (dd, J=8.1, 1.9 Hz, 1H), 6.97 (d, J=1.9 Hz, 1H), 3.80 (s, 3H), 3.45 (s, 2H), 2.39 (t, J=5.0 Hz, 4H), 1.62-1.51 (m, 4H), 1.47-1.39 (m, 2H).

reactant | 4-bromo-1-chloromethyl-2-methoxybenzene | 6.36 mmol, 1.50 g | BrC1=CC(=C(C=C1)CCl)OC | C8H8BrClO
reactant | potassium carbonate | 6.36 mmol, 1.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | piperidine | 6.36 mmol, 0.63 mL | N1CCCCC1 | C5H11N
solvent | acetonitrile | 64 mL | C(C)#N | C2H3N
product | 1-(4-Bromo-2-methoxybenzyl)-piperidine | 1.73 g, 96% | BrC1=CC(=C(CN2CCCCC2)C=C1)OC | C13H18BrNO
